US08536179B2
To a stirred solution of (5-(aminomethyl)-6-methoxy-4-methylpyridin-2-yl)methanol (0.29 g, 1.591 mmol), 6-bromo-1-isopropyl-3-methyl-1H-indole-4-carboxylic acid (0.48 g, 1.621 mmol), and HOAt (0.22 g, 1.616 mmol) in Dichloromethane (15 mL) and DMF (5 mL) was added EDC free base (0.30 g, 1.932 mmol). The reaction was stirred at RT for 3 h then evaporated to dryness under vacuum. The remaining was purified by silica gel chromatography (Analogix, SF25-60 g, 0 to 20% EtOAc in CH2Cl2) to give the product 6-bromo-N-((6-(hydroxymethyl)-2-methoxy-4-methylpyridin-3-yl)methyl)-1-isopropyl-3-methyl-1H-indole-4-carboxamide (0.73 g, 1.586 mmol, 100% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ=8.46 (t, J=4.9 Hz, 1H), 7.77 (d, J=1.8 Hz, 1H), 7.33 (d, J=1.0 Hz, 1H), 6.99 (d, J=1.5 Hz, 1H), 6.90 (s, 1H), 5.31 (t, J=5.9 Hz, 1H), 4.74 (quin, J=6.6 Hz, 1H), 4.45 (d, J=5.1 Hz, 1H), 4.43 (d, J=5.8 Hz, 2H), 3.83 (s, 3H), 2.40 (s, 3H), 2.10 (s, 3H), 1.38 (d, J=6.8 Hz, 6H). MS (ES)+m/e 460.2 [M+H]+.

reactant | (5-(aminomethyl)-6-methoxy-4-methylpyridin-2-yl)methanol | 1.591 mmol, 0.29 g | NCC=1C(=CC(=NC1OC)CO)C | C9H14N2O2
reactant | 6-bromo-1-isopropyl-3-methyl-1H-indole-4-carboxylic acid | 1.621 mmol, 0.48 g | BrC=1C=C(C=2C(=CN(C2C1)C(C)C)C)C(=O)O | C13H14BrNO2
reactant | HOAt | 1.616 mmol, 0.22 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDC | 1.932 mmol, 0.30 g
solvent | Dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 60 g | CCOC(=O)C | C4H8O2
product | 6-bromo-N-((6-(hydroxymethyl)-2-methoxy-4-methylpyridin-3-yl)methyl)-1-isopropyl-3-methyl-1H-indole-4-carboxamide | 1.586 mmol, 0.73 g, 100% yield | BrC=1C=C(C=2C(=CN(C2C1)C(C)C)C)C(=O)NCC=1C(=NC(=CC1C)CO)OC | C22H26BrN3O3
